US07449475B2
To a solution of (3S)-pyrrolidin-3-ol (0.87 g, 10.0 mmol) in THF (20 mL) was slowly added a solution of di-tert-butyl dicarbonate (2.18 g, 10.0 mmol) in THF (10 mL) at room temperature. After addition was completed, the reaction mixture was stirred at room temperature overnight. The volatiles were removed in vacuo and the residue was purified by silica gel flash chromatography (0-2.5% methanol in dichloromethane) to give intermediate tert-Butyl(3S)-3-hydroxypyrrolidine-1-carboxylate. To a solution of tert-butyl (3S)-3-hydroxypyrrolidine-1-carboxylate (900 mg, 4.8 mmol) in CH2Cl2 (6 mL) was added Et3N (699 mg, 6.91 mmol) followed by benzoyl chloride (809 mg, 5.76 mmol) at 0° C. After addition was completed, the reaction mixture was stirred at room temperature overnight. The reaction mixture was partitioned between CH2Cl2 and H2O. The organic layer was successively washed with aqueous NaHCO3 and water, dried over Na2SO4, filtered and concentrated. The residue was purified by silica gel flash chromatography (0-1% methanol in dichloromethane) to give the subtitled compound (642 mg).

reactant | (3S)-pyrrolidin-3-ol | 10.0 mmol, 0.87 g | N1C[C@H](CC1)O | C4H9NO
reactant | di-tert-butyl dicarbonate | 10.0 mmol, 2.18 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | tert-Butyl(3S)-3-hydroxypyrrolidine-1-carboxylate | O[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C9H17NO3
